US04314071
1,10-decanediol monoacetate
A solution of 4.36 g (25 mmoles) of 1,10-decanediol in 100 ml (1.77 moles) of glacial acetic acid was mixed with 130 ml (7.22 moles) of H2O containing 0.25 ml (4.5 mmoles) of conc. H2SO4. This mixture, itself at room temperature, was then extracted continuously for two days using refluxing cyclohexane. The cyclohexane layer was then cooled to room temperature and 0.78 g (18% recovery) of crystalline 1,10-decanediol was recovered by simple filtration of this nonpolar organic phase. The cyclohexane was then removed from the filtrate under reduced pressure, affording 4.28 g (approximately 79% yield--97% based on recovered starting material of product. GC analysis showed the presence of less than 2% starting diol; the ratio of monoester to diester was 20 to 1. Hence the desired monoester was approximately 95% pure.

reactant | 1,10-decanediol | 25 mmoles, 4.36 g | C(CCCCCCCCCO)O | C10H22O2
reactant | acetic acid | 1.77 moles, 100 ml | C(C)(=O)O | C2H4O2
reactant | H2O | 7.22 moles, 130 ml | O | H2O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 1,10-decanediol monoacetate | approximately 79% yield--97% | C(C)(=O)OCCCCCCCCCCO | C12H24O3
